US07338960B2
1-[2-(Methyloxy)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone
To a solution of 1-[4-bromo-2-(methyloxy)phenyl]ethanone (205 mg, 0.89 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (250 mg, 0.98 mmol), potassium acetate (263 mg, 2.68 mmol) in DMF (5.3 mL) was added PdCl2 (dppf) (73 mg, 0.09 mmol) and the resulting mixture heated under nitrogen at 85° C., overnight. The mixture was then reduced under vacuum and the residue purified by SPE (Si) possessing a layer of celite on the top, and eluting with cyclohexane:EtOAc (gradient 50:1 to 1:2) to afford the title compound as a solid (146 mg).

reactant | 1-[4-bromo-2-(methyloxy)phenyl]ethanone | 0.89 mmol, 205 mg | BrC1=CC(=C(C=C1)C(C)=O)OC | C9H9BrO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.98 mmol, 250 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.68 mmol, 263 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 5.3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2 | 0.09 mmol, 73 mg | Cl[Pd]Cl
product | 1-[2-(Methyloxy)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone | 146 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(C)=O | C15H21BO4
